Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
tetracycline / Neurontin / Demerol / venom-wasp
 
Attending: ___.
 
Chief Complaint:
constipation, n/v
 
Major Surgical or Invasive Procedure:
___ ___ Myotomy

 
History of Present Illness:
___ female with a past medical history of nutcracker
esophagus, achalasia, gastroesophageal reflux disease, empty
sella syndrome, chronic back pain and opiod use following a 
motor
vehicle accident over ___ years ago, morbid obesity, anxiety,
depression, and concern for gastroparesis, presenting with
persistent abdominal distention and epigastric pain.

Her abdominal pain is sharp, radiating to the back, similar to
her previous episodes of epigastric abdominal pain. Pt 
attributes
symptoms to worsening esophageal achalasia. Unable to take
anything po for the last 5 days as she vomits up everything she
swallows. Also reports severe constipation at this time. Has
tried Mg citrate with limited success. She was instructed by her
gastroenterologist to come in to be admitted for potential
evaluation of her esophageal achalasia.

Of note, she has had some dysphagia to solids since ___. In
___ developed dysphagia to liquids and regurgitation
thereof. She was hospitalized in ___ for chest pain and
intractable nausea and vomiting. 

She was diagnosed with achalasia type II in ___. In ___
she was hospitalized at ___ in ___
secondary to 'vomiting and could not keep any food down and
aspirated'. She was intubated for a period of time. She has had
botox injections to the LES, which helped somewhat. Had a prior
study that was equivocal for gastroparesis. Timed barium swallow
___, consistent with achalasia.

Following her hospitalization, she was only eating glucerna,
yoghurt, and water, but continued to have "some choking". Has
tried Reglan in the past with some benefit, but was told to stop
due to potential side effects. 

Subsequently seen at GI by thoracic surgery in ___.
Recommended to attempt POEM with backup for conversion to 
___.

In the ED:  
- Initial vital signs were notable for: 97.6 107 149/79 19 100%
RA 

- Exam notable for: very dry MM, moderately distended, firm abd
with epigastric tenderness without rebound, RLE > LLE pitting
edema

- Labs were notable for: WBC 10.4, hgb 14.8 plt 141, Cr 0.7, ALT
131, AST 49, AP 268, tbili 1.1, trop neg x1

- Studies performed include:  

CT C/A/P - esophageal obstruction at the GE junction, presumably
caused by known achalasia w/ superimposed esophagitis. No e/o
perforation. 

LENIs: No e/o DVT

- Patient was given: 1L LR, Reglan 5mg IV x1

- Consults: GI: trial methylnaltrexone for opiate-induced
constipation; formal GI c/s in am

- Vitals on transfer: 97.8 95 124/75 18 93% RA 

Upon arrival to the floor, states that she is able to swallow
salive and thinks that at least some of her meds are staying
down. Notes that constipation is at baseline (last BM yesterday)
without any recent change.

Of note, she adds that she was diagnosed with LLE DVT at an
urgent care in ___ and started on Xarelto. No w/u for PE
pursued at that time. States that she has been feeling more SOB
recently, but has been feeling that way for several weeks w/o
recent change. No pre-syncope / syncope. 
 
Past Medical History:
- Nutcracker esophagus
- Achalasia, s/p previous endoscopic dilations as well as a 
Botox
injection on ___ at the esophagogastric junction.
- Gastroesophageal reflux
- Constipation
- small hiatal hernia
- gastritis
- LLE DVT dx in ___
- Lower back pain on dilaudid
- Empty sella syndrome on dex
- Diabetes mellitus, insulin dependent
- Anxiety on Valium
- Hyperlipidemia
- Reflex sympathetic dystrophy
- Serotonin syndrome
- Fatty liver 
- Depression
- stool impaction/constipation ___ chronic opiod use
- central sleep apnea
- ___
- hx serotonin syndrome
- "grapefruit sized R ovarian growth compressing bladder?"
 
Social History:
___
Family History:
No family history of GI malignancies or disorders or
coagulopathy
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
GENERAL: Laying in bed. Eyes open. Alert and interactive. In no
acute distress. Intermittently swallowing without regurgitation. 

HEENT: PERRL, EOMI. Sclera anicteric and without injection. 
NECK: Supple. 
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.  
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.  
ABDOMEN: Normal bowels sounds, non distended, mild tenderness to
deep palpation in epigastric area, no rebound. No organomegaly.  

EXTREMITIES: b/l ___ edema ___ to both knees), no skin changes
SKIN: Warm.
NEUROLOGIC: AAOx3, no dysarthria, face symmetric, moving all
extremities with purpose. 

DISCHARGE PHYSICAL EXAM:

VITALS: 
24 HR Data (last updated ___ @ 701)
    Temp: 98.8 (Tm 98.8), BP: 124/77 (124-152/77-82), HR: 84
(84-98), RR: 18 (___), O2 sat: 94% (94-95), O2 delivery: Ra,
Wt: 260.1 lb/117.98 kg  

GENERAL: Sitting at the edge of the bed. No NC. Alert and
interactive. In no acute distress. 
HEENT: PERRL, EOMI. Sclera anicteric and without injection.
NECK: Supple. Erythema at the nape of the neck, no warmth, no
open excoriations 
CARDIAC: rrr, no m/r/g 
LUNGS: cta b.  
ABDOMEN: Normal bowels sounds, non distended, tenderness to
deep palpation in epigastric area, no rebound. Surgical sites
with mild but improving erythema, no purulence, no discharge, no
warmth.  
EXTREMITIES: b/l ___ edema (1+ to both knees), no skin changes
SKIN: Warm. mild erythema surrounding neck.
NEUROLOGIC: AAOx3, no dysarthria, face symmetric, moving all
extremities with purpose. 
 
Pertinent Results:
ADMISSION LABS:
===============
___ 09:25PM BLOOD WBC-10.4* RBC-5.03 Hgb-14.8 Hct-47.0* 
MCV-93 MCH-29.4 MCHC-31.5* RDW-16.9* RDWSD-56.7* Plt ___
___ 09:25PM BLOOD Neuts-84.5* Lymphs-10.6* Monos-4.3* 
Eos-0.1* Baso-0.1 Im ___ AbsNeut-8.76* AbsLymp-1.10* 
AbsMono-0.45 AbsEos-0.01* AbsBaso-0.01
___ 09:25PM BLOOD ___ PTT-28.2 ___
___ 09:25PM BLOOD Glucose-116* UreaN-22* Creat-0.7 Na-144 
K-4.0 Cl-102 HCO3-28 AnGap-14
___ 09:25PM BLOOD ALT-131* AST-49* AlkPhos-268* TotBili-1.1
___ 09:25PM BLOOD Lipase-13
___ 09:25PM BLOOD cTropnT-<0.01
___ 09:25PM BLOOD Albumin-3.8 Calcium-9.1 Phos-3.3 Mg-2.3

DISCHARGE LABS:
===============

___ 05:40AM BLOOD WBC-6.7 RBC-4.41 Hgb-13.1 Hct-40.8 MCV-93 
MCH-29.7 MCHC-32.1 RDW-16.4* RDWSD-54.4* Plt Ct-91*
___ 06:08AM BLOOD WBC-7.0 RBC-4.33 Hgb-13.1 Hct-40.7 MCV-94 
MCH-30.3 MCHC-32.2 RDW-16.4* RDWSD-55.8* Plt Ct-89*
___ 05:40AM BLOOD Plt Ct-91*
___ 06:08AM BLOOD Plt Ct-89*
___ 05:40AM BLOOD Glucose-224* UreaN-10 Creat-0.6 Na-142 
K-3.8 Cl-99 HCO3-30 AnGap-13
___ 06:08AM BLOOD Glucose-177* UreaN-10 Creat-0.7 Na-142 
K-3.6 Cl-100 HCO3-30 AnGap-12
___ 05:40AM BLOOD ALT-138* AST-33 AlkPhos-154* TotBili-0.9
___ 05:40AM BLOOD ALT-138* AST-33 AlkPhos-154* TotBili-0.9
___ 06:08AM BLOOD ALT-150* AST-55* AlkPhos-141* TotBili-0.9
___ 05:40AM BLOOD Calcium-9.2 Phos-2.7 Mg-1.8
___ 06:08AM BLOOD Calcium-9.3 Phos-2.8 Mg-1.8

MICRO:
======
None

IMAGING:
========
RIGHT LOWER EXTREMITY US ___
No evidence of deep venous thrombosis in the right lower 
extremity veins.  The peroneal veins were not identified.

CT CHEST/A/P ___
1. Esophageal obstruction at the gastroesophageal junction, 
presumably caused 
by known achalasia, with superimposed esophagitis.  No evidence 
of 
perforation. 
2. Incidental 6.2 cm right adnexal cyst.  Recommend nonemergent 
pelvic 
ultrasound for further evaluation. 
 

PELVIC ULTRASOUND ___
FINDINGS:  
  
The patient is status post hysterectomy. 
The ovaries were not identified. 
Simple right adnexal cystic lesion was incompletely evaluated 
due to overlying 
bowel loops and measures approximately 6.5 x 5.4 x 5.8 cm.  No 
internal 
vascularity or suspicious features. 
The lesion could not be visualized on transvaginal exam. 
  
IMPRESSION:  
  
The right adnexal cystic lesion was incompletely evaluated due 
to overlying 
bowel loops, within this limitation the lesion measures 
approximately 6.5 x 
5.4 x 5.8 cm and demonstrated no internal vascularity or 
suspicious features. 
Please note that due to limited evaluation a solid component 
cannot be 
excluded with certainty.  Repeat gynecologic ultrasound advised 
in 3 months to 
assess for stability. 

UGIS ___
IMPRESSION:  
  
No evidence of leak or obstruction.  Unchanged dilatation of the 
distal 
esophagus with brief holdup of contrast. 

___
LLE US
 
IMPRESSION:  
  
No evidence of deep venous thrombosis in the left lower 
extremity veins. 

 
Brief Hospital Course:
SUMMARY
=======
___ female with a past medical history of nutcracker 
esophagus, achalasia, gastroesophageal reflux disease, empty 
sella syndrome, chronic back pain and opioid use following a 
motor vehicle accident over ___ years ago, morbid obesity, 
anxiety, depression, and concern for gastroparesis, presenting 
with persistent abdominal distention and epigastric pain, 
consistent with constipation and esophageal obstruction 
secondary to achalasia. Given recurrent episodes of esophageal 
obstruction, decision was made to move forward with ___ 
myotomy per Thoracic surgery which was done on ___. The patient 
tolerated the procedure very well. Her diet was advanced and she 
was tolerating soft solids at the time of discharge.

TRANSITIONAL ISSUES
===================
[] Patient's anticoagulation was changed to apixaban 5 po BID
[] Holding metoprolol succinate as patients heart rates and BPs 
WNL, ___ at home will check BPs, HR
[] Pt with diagnosis of cirrhosis, hx ___ connect to 
outpatient GI
[] Pt noted to have adnexal cyst did have repeat imaging here, 
needs follow-up in 3 months to assess for stability
[] Pt noted to be mildly thrombocytopenic. She will follow-up 
with heme as outpatient
[] Insulin was changed to glargine 24u (was 32 on admission)

ACUTE ISSUES
============
# Esophageal obstruction secondary to achalasia 
s/p previous endoscopic dilations, Botox injection, 
metoclopramide therapy. Presented with pain w/ swallowing and 
inability to keep food down x5 days. Also complaining of 
regurgitation of solid food immediately following ingestion. Had 
similar symptoms in ___ last year prior to dilatation. CT 
notable for esophageal obstruction, likely in setting of known 
achalasia. NGT placed in hospital, kept NPO for decompression. 
Following discussions with GI and thoracic surgery, decision was 
made to move forward with ___ myotomy which was done 
successfully on ___. Patient tolerated soft solids upon 
discharge, with plans to advance as outpatient with GI/Thoracics 
guidance.

# Concern for recurrent aspiration in the setting of esophageal 
obstruction
Patient with one witnessed episode of likely aspiration, similar 
to many recent episodes that she had at home. This continued to 
be high risk so she was kept NPO until her procedure. Kept head 
of bed elevated and kept on aspiration precautions even after 
the myotomy, so that risk of aspiration will be minimized.

# ? cirrhosis
# hx of ___
There is mention in the op report of a visualized cirrhotic 
liver, potentially ___ steatosis, which would be a new diagnosis 
for this patient. She has known ___, seen by GI in the past.
She did present with mild LFT abnormalities and 
thrombocytopenia, but recent CT abd/pelvis (___) does not 
describe cirrhotic appearing liver. Would consider RUQUS, 
fibroscan, biopsy, reasonable to be done as outpatient with 
guidance from hepatology.

# LLE DVT
Diagnosed in ___. Held home Xarelto, started on heparin 
IV while NPO. Restarted on apixaban upon discharge, as her po 
intake is unpredictable. Her LLE was noted to be slightly larger 
and more tender than at her baseline, and so a repeat LLE US was 
done which was negative.

# Thrombocytopenia
Platelet count of 141 on admission to ___, downtrended to 90 
during hospital stay. Likely dilutional and coagulation 
artifact, although could be related to liver disease given 
findings of cirrhosis intraoperatively. Will follow with Heme as 
outpatient. 

# right adnexal cyst
CT abd/pelvis ___ noted 6.2 x 4.1 cm right adnexal cyst, 
pelvic ultrasound was performed on ___ with stability of the 
cyst. Ultrasound report recommends repeat imaging in 3 months

# Diabetes mellitus, insulin dependent
- On glargine (24 units at bedtime) and ISS. This was a decrease 
from 32 which was her home regimen.

CHRONIC ISSUES:
===============
# tachycardia
Pt had been taking metop succinate 100 for "fast heart rates". 
No
hx of arrhythmia. HRs have been variable here, but mostly in the
___. Her metoprolol was held upon discharge as she did not 
require it while hospitalized.

# Code status
Has previously wanted to be DNR/DNI, but wants to remain full 
code for surgery. Ongoing conversation with Palliative Care. She 
remained ambivalent about her wishes for code status, 
conversation should be continued with her PCP.

# Constipation
CT on admission negative for obstruction. Per pt
at baseline. Continued on her home bowel reg. 

# Gastroesophageal reflux / hiatal hernia / gastritis 
continued home PPI: pt on lansporazole

# Lower back pain
Transitioned from IV dilaudid to po home regimen, was 
successful. Palliative Care was consulted to aid in the 
management of her chronic pain. She has been on an extensive 
pain regimen in the past and the current 8mg po 5x/day is a 
significant decrease in dosing than what she had been on in the 
past. ___ was reviewed prior to discharge.

# Empty sella syndrome 
Was on stress dose steroids, then was put back on her home dose.

# Anxiety 
 home Valium 

# Hyperlipidemia 
 home statin 

# Depression 
home DULoxetine ___ 30 

# Central sleep apnea - stable

This patient was prescribed, or continued on, an opioid pain 
medication at the time of discharge (please see the attached 
medication list for details). As part of our safe opioid 
prescribing process, all patients are provided with an opioid 
risks and treatment resource education sheet and encouraged to 
discuss this therapy with their outpatient providers to 
determine if opioid pain medication is still indicated.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. HYDROmorphone (Dilaudid) 8 mg PO FIVE TIMES DAILY 
2. MethylPHENIDATE (Ritalin) 5 mg PO DAILY 
3. DULoxetine ___ 30 mg PO DAILY 
4. Metoclopramide 5 mg PO TID W/MEALS 
5. dexlansoprazole 60 mg oral daily 
6. Dexamethasone 1.5 mg PO DAILY 
7. Metoprolol Succinate XL 100 mg PO DAILY 
8. Rivaroxaban 20 mg PO DAILY 
9. Linzess (linaCLOtide) 290 mcg oral daily 
10. Movantik (naloxegol) 12.5 mg oral daily 
11. Atorvastatin 40 mg PO 5X/WEEK (___) 
12. L-Methylfolate (levomefolate calcium) 15 mg oral EVERY OTHER 
DAY 
13. Vitamin D ___ UNIT PO DAILY 
14. Diazepam 5 mg PO DAILY:PRN anxiety 
15. Cyproheptadine 4 mg PO BID:PRN nausea 
16. Maxalt (rizatriptan) 10 mg oral TID:PRN migraine headaches 
17. Magnesium Citrate 300 mL PO DAILY:PRN constipation 
18. Bisacodyl 10 mg PR QHS:PRN Constipation - Second Line 
19. Fleet Enema (Saline) ___AILY:PRN constipation 
20. Glargine 32 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*2 
2.  Glargine 24 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
3.  Atorvastatin 40 mg PO 5X/WEEK (___)  
4.  Bisacodyl 10 mg PR QHS:PRN Constipation - Second Line  
5.  Cyproheptadine 4 mg PO BID:PRN nausea  
6.  Dexamethasone 1.5 mg PO DAILY  
7.  dexlansoprazole 60 mg oral daily  
8.  Diazepam 5 mg PO DAILY:PRN anxiety  
9.  DULoxetine ___ 30 mg PO DAILY  
10.  Fleet Enema (Saline) ___AILY:PRN constipation  
11.  HYDROmorphone (Dilaudid) 8 mg PO FIVE TIMES DAILY  
12.  L-Methylfolate (levomefolate calcium) 15 mg oral EVERY 
OTHER DAY  
13.  Linzess (linaCLOtide) 290 mcg oral daily  
14.  Magnesium Citrate 300 mL PO DAILY:PRN constipation  
15.  Maxalt (rizatriptan) 10 mg oral TID:PRN migraine headaches  

16.  MethylPHENIDATE (Ritalin) 5 mg PO DAILY  
17.  Metoclopramide 5 mg PO TID W/MEALS  
18.  Movantik (naloxegol) 12.5 mg oral daily  
19.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Achalasia leading to esophageal obstruction

Secondary:
Constipation
Chronic Pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure caring for you at ___ 
___.  

WHY WERE YOU IN THE HOSPITAL?  
- You were admitted to the hospital for an exacerbation of your 
achalasia (a narrowing of your esophagus) which caused you to 
have trouble eating and drinking.

WHAT HAPPENED WHEN YOU WERE IN THE HOSPITAL?
- We used a nasogastric tube to help diminish the blockage in 
your esophagus 
- We worked with our gastrointestinal specialists and thoracic 
surgery colleagues to plan myotomy to provide a more durable 
solution to your esophageal obstruction which you had on ___.

WHAT SHOULD YOU DO AFTER YOU LEAVE THE HOSPITAL?  
- Continue to take all your medicines as prescribed below. 
- Show up to your appointments as listed below.

We wish you the best!!

Sincerely,  

Your ___ Team
 

Call Dr. ___ ___ if you experience:
 -Fevers > 101 or chills
 -Difficult or painful swallowing
 -Nausea, vomiting.
 -Increased shortness of breath

 Pain

-You may need pain medication once you are home but you can wean 
it over the next week as the discomfort resolves.  Make sure 
that you have regular bowel movements while on narcotic pain 
medications as they are constipating which can cause more 
problems.  Use a stool softener or gentle laxative to stay 
regular.

-No driving while taking narcotic pain medication.

-Take Tylenol on a standing basis to avoid more opiod use.

 Activity
 -Shower daily. Wash incision with mild soap and water, rinse, 
pat dry
 -No tub bathing, swimming or hot tubs until incision healed
 -No lotions or creams to incision
 -Walk ___ times a day for ___ minutes increase to a Goal of 
30 minutes daily

 Diet:
 Full liquid diet for ___ days. Increase to soft solids as 
tolerates

 Eat small frequent meals. Sit in chair for all meals. Remain 
sitting up for ___ minutes after all meals

 NO CARBONATED DRINKS

 
Followup Instructions:
___